datasets/10k_Mayr_OG.csv
SMILES Labelled
CN(C1=CC=CC=C1)[C:34]1=[CH:33][CH:32]=[C:31]([CH+:20][C:41]2=[CH:42][CH:43]=[C:44](N(C)C3=CC=CC=C3)[CH:45]=[CH:46]2)[CH:36]=[CH:35]1.FC(F)(F)[C:64]1=[CH:63][CH:62]=[C:61]([O-:10])[CH:72]=[CH:73]1>>CN(C1=CC=CC=C1)[C:34]1=[CH:33][CH:32]=[C:31]([CH:20]([O:10][C:61]2=[CH:62][CH:63]=[C:64](C(F)(F)F)[CH:73]=[CH:72]2)[C:41]2=[CH:42][CH:43]=[C:44](N(C)C3=CC=CC=C3)[CH:45]=[CH:46]2)[CH:36]=[CH:35]1 10=20
"CN(C)[C:34]1=[CH:33][CH:32]=[C:31]([C+:20]2[C:41]3=[C:42]([CH:43]=[CH:44][CH:45]=[CH:46]3)[C:52]3=[C:51]2[CH:56]=[CH:55][CH:54]=[CH:53]3)[CH:36]=[CH:35]1.C[Si:63](C)(C1=CC=CC=C1)[CH2:62][Si:11]([H:10])([CH2:72][Si:73](C)(C)C1=CC=CC=C1)[CH2:82][Si:83](C)(C)C1=CC=CC=C1>>CN(C)[C:34]1=[CH:33][CH:32]=[C:31]([C:20]2([H:10])[C:41]3=[C:42]([CH:43]=[CH:44][CH:45]=[CH:46]3)[C:52]3=[C:51]2[CH:56]=[CH:55][CH:54]=[CH:53]3)[CH:36]=[CH:35]1.C[Si:63](C)(C1=CC=CC=C1)[CH2:62][Si+:11]([CH2:72][Si:73](C)(C)C1=CC=CC=C1)[CH2:82][Si:83](C)(C)C1=CC=CC=C1 10,11=10,20"
"C1=CC=C([Sn:63](C2=CC=CC=C2)(C2=CC=CC=C2)[CH2:62][CH:11]=[CH2:10])C=C1.C1[CH:20]=[CH:21][C:22](=[O:23])[O:33]1>>C1=CC=C([Sn:63](C2=CC=CC=C2)(C2=CC=CC=C2)[CH2:62][CH+:11][CH2:10][CH:20]2C[O:33][C:22]([O-:23])=[CH:21]2)C=C1 10,11=10,20;20,21=21,22;22,23=23"
C1CN2CCC[C:35]3=[C:34]2[C:33](=[CH:32][C:31]([CH+:20][C:41]2=[CH:42][C:43]4=[C:44]5N(CCC4)CCC[C:45]5=[CH:46]2)=[CH:36]3)C1.[N:10]1=[CH:61][NH:62][CH:72]=[CH:71]1>>C1CN2CCC[C:35]3=[C:34]2[C:33](=[CH:32][C:31]([CH:20]([N+:10]2=[CH:61][NH:62][CH:72]=[CH:71]2)[C:41]2=[CH:42][C:43]4=[C:44]5N(CCC4)CCC[C:45]5=[CH:46]2)=[CH:36]3)C1 10=20
"C[Si:63](C)(C)[CH2:62][Si:11]([H:10])([CH2:72][Si:73](C)(C)C)[CH2:82][Si:83](C)(C)C.FC(F)(F)[S:20][N:21]([S:32](C1=CC=CC=C1)(=[O:33])=[O:34])[S:42](C1=CC=CC=C1)(=[O:43])=[O:44]>>C1=CC=C([S:32]([N-:21][S:42](C2=CC=CC=C2)(=[O:43])=[O:44])(=[O:33])=[O:34])C=C1.C[Si:63](C)(C)[CH2:62][Si+:11]([CH2:72][Si:73](C)(C)C)[CH2:82][Si:83](C)(C)C.FC(F)(F)[S:20][H:10] 10,11=10,20;20,21=21"
CN(C1=CC=CC=C1)[C:34]1=[CH:33][CH:32]=[C:31]([CH+:20][C:41]2=[CH:42][CH:43]=[C:44](N(C)C3=CC=CC=C3)[CH:45]=[CH:46]2)[CH:36]=[CH:35]1.C[N:10](C)[NH:61]C>>CN(C1=CC=CC=C1)[C:34]1=[CH:33][CH:32]=[C:31]([CH:20]([N+:10](C)(C)[NH:61]C)[C:41]2=[CH:42][CH:43]=[C:44](N(C)C3=CC=CC=C3)[CH:45]=[CH:46]2)[CH:36]=[CH:35]1 10=20
"CO[C:34]1=[CH:33][CH:32]=[C:31]([CH:20]=[C:21]2[C:22](=[O:23])C3=C(C=CC=C3)[C:32]2=[O:33])[CH:36]=[CH:35]1.C[Si:11]1([H:10])CCCC1>>CO[C:34]1=[CH:33][CH:32]=[C:31]([CH:20]([H:10])[C:21]2=[C:22]([O-:23])C3=C(C=CC=C3)[C:32]2=[O:33])[CH:36]=[CH:35]1.C[Si+:11]1CCCC1 10,11=10,20;20,21=21,22;22,23=23"
"C1=CC=C(CC2C[O:62][C:11]([O-:12])=[N:10]2)C=C1.COC1=CC=C([C:22]2=[O+:23][C:32]3=[C:31](C=CC=C3)[CH:20]=[CH:21]2)C=C1>>COC1=CC=C([C:22]2=[CH:21][CH:20]([N:10]3C(CC4=CC=CC=C4)C[O:62][C:11]3=[O:12])[C:31]3=[C:32](C=CC=C3)[O:23]2)C=C1 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"C1C[C:20](=[O:21])CCS1.CC(C)[C:11](=[CH2:10])[O:12][Si:63](C)(C)C>>CC(C)[C:11]([CH2:10][C:20]1([O-:21])CCSCC1)=[O+:12][Si:63](C)(C)C 10,11=10,20;12=11,12;20,21=21"
"CO[C:44]1=[CH:43][CH:42]=[C:41]([CH:20]=[C:21]2[C:22](=[O:23])[O:39]C(C)(C)[O:33][C:31]2=[O:32])[CH:46]=[CH:45]1.C[C:13]1=[CH:12][CH:11]=[CH:10][CH:61]=[CH:62]1>>CO[C:44]1=[CH:43][CH:42]=[C:41]([CH:20]([CH:10]2[CH:11]=[CH:12][C+:13](C)[CH:62]=[CH:61]2)[C:21]2=[C:22]([O-:23])[O:39]C(C)(C)[O:33][C:31]2=[O:32])[CH:46]=[CH:45]1 10,11=10,20;12,13=11,12;20,21=21,22;22,23=23"
C[C:61]([CH-:10][C:81]1=[CH:82][CH:83]=[CH:84][CH:93]=[CH:92]1)=[O:62].C[CH+:20][C:31]12C3C4C5C1[Fe:32]45321678C2C1C6C7C28>>C[CH:20]([CH:10]([C:61](C)=[O:62])[C:81]1=[CH:82][CH:83]=[CH:84][CH:93]=[CH:92]1)[C:31]12C3C4C5C1[Fe:32]45321678C2C1C6C7C28 10=20
"CC1(C)O[B-:63](C2=CC=CC=C2)([CH2:62][CH:11]=[CH2:10])OC1(C)C.O=[N+]([O-])[C:33]1=[CH:32][C:21]([N+:22]([O-])=[O:23])=[CH:20][C:41]2=[N+:42]([O-])O[N:35]=[C:34]12>>CC1(C)O[B-:63](C2=CC=CC=C2)([CH2:62][CH+:11][CH2:10][CH:20]2[C:21](=[N+:22]([O-])[O-:23])[CH:32]=[C:33]([N+](=O)[O-])[C:34]3=[N:35]O[N+:42]([O-])=[C:41]23)OC1(C)C 10,11=10,20;20,21=21,22;22,23=23"
"CC[O:82][C:61]([CH-:10][S:71](C1=CC=CC=C1)=[O:72])=[O:62].C[CH:20]1C[Fe-2:21]12345(C#[O+])(C#[O+])C1C2C3C4C15>>CC[O:82][C:61]([CH:10]([CH:20](C)C[Fe-3:21]1234(C#[O+])(C#[O+])C5C1C2C3C54)[S:71](C1=CC=CC=C1)=[O:72])=[O:62] 10=20;20,21=21"
"C1COC2(CC[C:20](=[O:21])CC2)O1.CCCC[Si:63](CCCC)(CCCC)[CH2:62][CH:11]=[CH2:10]>>CCCC[Si:63](CCCC)(CCCC)[CH2:62][CH+:11][CH2:10][C:20]1([O-:21])CCC2(CC1)OCCO2 10,11=10,20;20,21=21"
"C[C:10](=[C:11]=[N-:12])[C:61]1=[CH:62][CH:63]=[C:64]([N+:65](=[O:66])[O-:76])[CH:83]=[CH:82]1.C[C:21]1=[CH:20]CCC[C:22]1=[O:23]>>C[C:10]([C:11]#[N:12])([CH:20]1CCC[C:22]([O-:23])=[C:21]1C)[C:61]1=[CH:62][CH:63]=[C:64]([N+:65](=[O:66])[O-:76])[CH:83]=[CH:82]1 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
